US08486950B2
2,6-dichloro-4-cyano-N-(2-(cyclopropanecarboxamido)pyridin-4-yl)benzamide
A mixture of N-(2-bromopyridin-4-yl)-2,6-dichloro-4-cyanobenzamide (74 mg, 0.20 mmol), cyclopropanecarboxamide (34 mg, 0.40 mmol), Pd2(dba)3 (18 mg, 0.020 mmol), Xantphos (23 mg, 0.040 mmol), Cs2CO3 (131 mg, 0.40 mmol), dioxane (1.2 mL) was heated to 140° C. for 1 hour in a microwave reactor under nitrogen atmosphere. The mixture was filtered through Celite and then conentrated under reduced pressure. The residue was purified by prep-HPLC (Gilson GX 281, Shim-pack PRC-ODS 250 mm×20 mm×2, gradient: CH3CN/10 mm/L NH4HCO3, 17 min) to afford the desired product (30 mg, yield: 40%). 1H NMR (500 MHz, DMSO-d6): δ 11.28 (s, 1H), 10.79 (s, 1H), 8.36-8.24 (m, 4H), 7.47 (m, 1H), 2.00 (m, 1H), 0.81-0.79 (m, 4H). LCMS (ESI) m/z: 375 [M+H+].

reactant | N-(2-bromopyridin-4-yl)-2,6-dichloro-4-cyanobenzamide | 0.20 mmol, 74 mg | BrC1=NC=CC(=C1)NC(C1=C(C=C(C=C1Cl)C#N)Cl)=O | C13H6BrCl2N3O
reactant | cyclopropanecarboxamide | 0.40 mmol, 34 mg | C1(CC1)C(=O)N | C4H7NO
reactant | Xantphos | 0.040 mmol, 23 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | Cs2CO3 | 0.40 mmol, 131 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
catalyst | Pd2(dba)3 | 0.020 mmol, 18 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 1.2 mL | O1CCOCC1 | C4H8O2
product | 2,6-dichloro-4-cyano-N-(2-(cyclopropanecarboxamido)pyridin-4-yl)benzamide | 30 mg, yield: 40% | ClC1=C(C(=O)NC2=CC(=NC=C2)NC(=O)C2CC2)C(=CC(=C1)C#N)Cl | C17H12Cl2N4O2
